US07279486B2
Step 1. Ethyl 3-(2-chlorophenyl)-2-(diethoxyphosphoryl)propanoate
To a stirred solution of ethyl (diethoxyphosphoryl)acetate (10.0 g, 44.6 mmol) in N,N-dimethylformamide (100 mL) was added 60% sodium hydride in mineral oil (1.96 g, 49.1 mmol) at 0° C. and the mixture was stirred for 1 h at the same temperature. To the mixture was added 1-(bromomethyl)-2-chlorobenzene (6.35 mL, 49.1 mmol) at 0° C. and the resulting mixture was stirred for 18 h at the room temperature. The reaction mixture was quenched by the addition of water, then extracted with diethyl ether (200 mL×2), and the combined organic layers were washed with water (100 mL) and brine (100 mL), dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel (500 g) eluting with hexane/ethyl acetate (1/1) to afford 14.6 g (93%) of the title compound as a colorless oil:

reactant | ethyl (diethoxyphosphoryl)acetate | 44.6 mmol, 10.0 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(bromomethyl)-2-chlorobenzene | 49.1 mmol, 6.35 mL | BrCC1=C(C=CC=C1)Cl | C7H6BrCl
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | Ethyl 3-(2-chlorophenyl)-2-(diethoxyphosphoryl)propanoate | 14.6 g, 93% | ClC1=C(C=CC=C1)CC(C(=O)OCC)P(=O)(OCC)OCC | C15H22ClO5P
